US04470972
Dissolve 3.0 g of 7-benzyloxycarbonyl-1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid methyl ester (3.0 g) in 20 ml of 20% hydrobromic acid in glacial acetic acid and stir the mixture at room temperature for two hours. Add the mixture dropwise to diethyl ether at 0°-5° to give 1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid methyl ester hydrobromide, a brown solid m.g. 156°-158°.

reactant | 7-benzyloxycarbonyl-1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid methyl ester | 3.0 g | COC(=O)[C@H]1N(CC2(SCCS2)C1)C(=O)OCC1=CC=CC=C1 | C16H19NO4S2
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | hydrobromic acid | 20 ml | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid methyl ester hydrobromide | Br.COC(=O)[C@H]1NCC2(SCCS2)C1 | InChI=1S/C8H13NO2S2.BrH/c1-11-7(10)6-4-8(5-9-6)12-2-3-13-8;/h6,9H,2-5H2,1H3;1H/t6-;/m0./s1
